US08859556B2
To a solution of 2-(tert-butoxycarbonylamino)-3,3-dimethylbutanoic acid (CAS 102185-35-3, 500 mg, 2.16 mmol) in DCM (5 mL) was added EDCI (CAS 25952-53-8, 497 mg, 2.59 mmol) and stirred for 10 min at rt. A solution of N,O-dimethylhydroxylamine hydrochloride (CAS 6638-79-5, 253 mg, 2.59 mmol) and DIPEA (0.429 mL, 2.59 mmol) in DCM (5 mL) was added and the reaction mixture was left to stir at rt over a weekend. The mixture was diluted with DCM (30 mL) and extracted with saturated aq NaHCO3 (50 mL). The organic phase was washed with water before being dried over MgSO4 and filtered. The solvent was removed in vacuo to give tert-butyl 1-(methoxy(methyl)amino)-3,3-dimethyl-1-oxobutan-2-ylcarbamate (466 mg, 79%).

reactant | 2-(tert-butoxycarbonylamino)-3,3-dimethylbutanoic acid | 2.16 mmol, 500 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C(C)(C)C | C11H21NO4
reactant | EDCI | 2.59 mmol, 497 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | N,O-dimethylhydroxylamine hydrochloride | 2.59 mmol, 253 mg | Cl.CNOC
reactant | DIPEA | 2.59 mmol, 0.429 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-(methoxy(methyl)amino)-3,3-dimethyl-1-oxobutan-2-ylcarbamate | 466 mg, 79% | CON(C(C(C(C)(C)C)NC(OC(C)(C)C)=O)=O)C | C13H26N2O4
